US04288449
A solution of 24.5 ml of thiophenol in 100 ml of anhydrous THF is added to a suspension of 13 g of sodium methylate in 440 ml of absolute THF whilst stirring at room temperature under nitrogen. 72 g of 4-chloro-3-nitro-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester in 220 ml of absolute THF are then added dropwise and the mixture is stirred at room temperature until the end of the reaction is reached, as ascertained by thin layer chromatography. After removing the solvent on a rotary evaporator, the residue is repeatedly extracted with hexane and then recrystallized from ethyl acetate/methanol. 3-Nitro-4-phenylthio-5-pyrrol-1-yl-sulfonyl-benzoic acid methyl ester of melting point 153°-154° C. is obtained. Yield: 45%.

reactant | thiophenol | 24.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium methylate | 13 g | C[O-].[Na+]
reactant | 4-chloro-3-nitro-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester | 72 g | COC(C1C(C(=C(C(=C1)N1C=CC=C1)Cl)[N+](=O)[O-])=S(=O)=O)=O | C12H9ClN2O6S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 440 ml | C1CCOC1 | C4H8O
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | 3-Nitro-4-phenylthio-5-pyrrol-1-yl-sulfonyl-benzoic acid methyl ester | Yield: 45% | COC(C1C(C(=C(C(=C1)N1C=CC=C1)SC1=CC=CC=C1)[N+](=O)[O-])=S(=O)=O)=O | C18H14N2O6S2
